* Schematics Netlist *



R_R9         aa $N_0001  10k  
R_R10         $N_0003 $N_0002  3k  
R_R11         $N_0005 $N_0004  3k  
R_R13         0 $N_0005  470  
R_R6         0 $N_0001  1k  
Q_Q1         $N_0006 $N_0001 0 Q2N4014
Q_Q4         $N_0007 $N_0006 0 Q2N4014
Q_Q10         0 $N_0007 $N_0003 Q2N3505
Q_Q6         $N_0008 $N_0005 0 Q2N4014
M_M7         $N_0009 $N_0008 0 0 IRFF110
M_M6         $N_0009 $N_0010 $N_0011 $N_0011 IRFF9110
Q_Q5         $N_0011 $N_0007 $N_0004 Q2N4014
R_R12         $N_0002 $N_0011  470  
R_R7         $N_0006 $N_0011  10k  
V_V4         $N_0011 0 15
Q_Q9         $N_0010 $N_0002 $N_0011 Q2N3505
R_R14         $N_0008 $N_0010  100  
L_L1         $N_0009 $N_0012  10m  
R_R15         bb $N_0013  10k  
R_R16         $N_0015 $N_0014  3k  
R_R17         $N_0017 $N_0016  3k  
R_R18         0 $N_0017  470  
R_R19         0 $N_0013  1k  
Q_Q11         $N_0018 $N_0013 0 Q2N4014
Q_Q12         $N_0019 $N_0018 0 Q2N4014
Q_Q13         0 $N_0019 $N_0015 Q2N3505
Q_Q14         $N_0020 $N_0017 0 Q2N4014
M_M8         $N_0012 $N_0020 0 0 IRFF110
M_M9         $N_0012 $N_0021 $N_0022 $N_0022 IRFF9110
Q_Q15         $N_0022 $N_0019 $N_0016 Q2N4014
R_R20         $N_0014 $N_0022  470  
R_R21         $N_0019 $N_0022  1k  
R_R22         $N_0018 $N_0022  10k  
V_V5         $N_0022 0 15
Q_Q16         $N_0021 $N_0014 $N_0022 Q2N3505
R_R23         $N_0020 $N_0021  100  
D_D6         $N_0023 $N_0024 Dbreak 
D_D7         $N_0023 $N_0025 Dbreak 
D_D3         $N_0025 $N_0026 D1N4151 
D_D1         $N_0024 $N_0026 D1N4151 
M_M1         $N_0027 $N_0024 $N_0025 $N_0025 IRFF110
R_R2         $N_0024 $N_0028  22  
R_R4         0 $N_0023  100  
M_M2         $N_0028 $N_0027 $N_0023 $N_0023 IRFF110
R_R3         $N_0023 $N_0028  1k  
R_R5         $N_0027 $N_0026  1k  
C_C1         $N_0023 $N_0026  22n  
V_V2         $N_0029 0 50
M_M3         $N_0029 $N_0028 $N_0023 $N_0023 IRF225
D_D8         $N_0030 $N_0031 Dbreak 
D_D9         $N_0030 $N_0032 Dbreak 
D_D10         $N_0032 $N_0033 D1N4151 
D_D11         $N_0031 $N_0033 D1N4151 
M_M10         $N_0034 $N_0031 $N_0032 $N_0032 IRFF110
R_R24         $N_0031 $N_0035  22  
R_R25         0 $N_0030  100  
M_M11         $N_0035 $N_0034 $N_0030 $N_0030 IRFF110
R_R26         $N_0030 $N_0035  1k  
R_R27         $N_0034 $N_0033  1k  
C_C2         $N_0030 $N_0033  22n  
V_V6         $N_0036 0 50
M_M12         $N_0036 $N_0035 $N_0030 $N_0030 IRF225
L_L3         $N_0032 $N_0031  10m  
V_V1         aa 0  
+PULSE -15 15 0 100n 100n 20u 50u
V_V3         bb 0  
+PULSE -15 15 25u 100n 100n 20u 50u
R_R8         $N_0007 $N_0011  3k  
L_L2         $N_0024 $N_0025  10m  
Kn_K1         L_L1 L_L2 
+ L_L3    0.999
