* Schematics Netlist *



X_U2A         $N_0001 $N_0002 +15 -15 $N_0003 TL082
C_C1         $N_0002 0  100p  
R_R5         $N_0001 $N_0003  100k  
R_R38         $N_0005 $N_0004  10k  
X_U14A         $N_0006 $N_0007 +15 -15 $N_0007 TL082
X_U16A         $N_0007 $N_0008 +15 -15 $N_0009 TL082
D_D7         $N_0008 $N_0009 D1N4151 
R_R39         $N_0005 $N_0007  10k  
D_D8         $N_0010 $N_0008 D1N4151 
X_U15A         0 $N_0005 +15 -15 $N_0004 TL082
X_U17A         $N_0004 $N_0008 +15 -15 $N_0010 TL082
R_R40         $N_0011 $N_0008  10k  
R_R4         I_sence $N_0002  1k  
R_R3         $N_0008 $N_0001  1k  
R_R7         $N_0012 +15  10k  
R_R11         0 bb  10k  
X_U3A         $N_0013 $N_0012 +15 -15 bb TL082
R_R8         0 $N_0012  10k  
R_R9         $N_0014 0  10k  
R_R10         -15 $N_0014  10k  
R_R12         0 aa  10k  
X_U4A         $N_0014 $N_0013 +15 -15 aa TL082
C_C2         $N_0013 0  100p  
R_R6         $N_0003 $N_0013  10k  
R_R41         $N_0006 +15  14k  
R_R42         0 $N_0006  1k  
R_R24         cc $N_0015  33k  
R_R23         dd $N_0016  32k  
R_R25         $N_0016 $N_0017  5k  
X_U6A         $N_0015 $N_0016 +15 -15 $N_0017 TL082
R_R27         $N_0015 0  5k  
R_R26         $N_0017 $N_0018  220k  
C_C5         $N_0018 $N_0019  2u  
X_U7A         0 $N_0018 +15 -15 $N_0019 TL082
X_U11         $N_0020 0 $N_0020 TL431
R_R34         $N_0020 +15  15k  
R_R35         0 $N_0020  15k  
R_R31         $N_0022 $N_0021  10k  
R_R32         $N_0022 $N_0023  10k  
X_U9A         0 $N_0022 +15 -15 $N_0021 TL082
D_D5         $N_0024 $N_0025 D1N4151 
D_D6         $N_0026 $N_0024 D1N4151 
X_U12A         $N_0020 $N_0023 +15 -15 $N_0023 TL082
X_U10A         $N_0021 $N_0024 +15 -15 $N_0026 TL082
X_U8A         $N_0023 $N_0024 +15 -15 $N_0025 TL082
C_C6         $N_0027 $N_0028  33n  
R_R33         $N_0024 $N_0029  100k  
R_R37         0 $N_0029  22k  
R_R30         0 $N_0028  12.06k  
X_U13A         $N_0029 $N_0027 +15 -15 $N_0030 TL082
R_R29         $N_0027 $N_0030  12.06k  
R_R36         $N_0029 $N_0030  10k  
C_C7         $N_0028 $N_0030  33n  
R_R22         V_sence $N_0031  5k  
R_R20         $N_0033 $N_0032  5k  
X_U5A         0 $N_0033 +15 -15 $N_0032 TL082
R_R19         V_sence $N_0033  50k  
C_C4         $N_0033 $N_0031  220p  
Q_Q1         $N_0035 $N_0034 $N_0036 Q2N3505
R_R43         $N_0035 $N_0036  2k  
V_V4         $N_0036 0 15
R_R46         $N_0034 $N_0036  10k  
R_R47         $N_0037 $N_0036  10k  
R_R48         $N_0038 $N_0037  10k  
R_R49         $N_0038 $N_0034  10k  
Q_Q2         +15 $N_0037 $N_0036 Q2N3505
X_U18         $N_0039 0 $N_0038 TL431
R_R50         0 +15  10k  
R_R44         $N_0039 $N_0035  9.5k  
R_R45         0 $N_0039  2.5k  
Q_Q3         $N_0041 $N_0040 $N_0042 Q2N3505
R_R51         $N_0041 $N_0042  2k  
R_R52         $N_0040 $N_0042  10k  
R_R53         $N_0043 $N_0042  10k  
R_R54         $N_0044 $N_0043  10k  
R_R55         $N_0044 $N_0040  10k  
Q_Q4         -15 $N_0043 $N_0042 Q2N3505
X_U19         $N_0045 0 $N_0044 TL431
R_R56         0 -15  10k  
R_R57         $N_0045 $N_0041  9.5k  
R_R58         0 $N_0045  2.5k  
V_V13         0 $N_0042 15
R_R2         $N_0046 $N_0011  100k  
X_U1A         0 $N_0046 +15 -15 $N_0011 TL082
R_R1         $N_0030 $N_0046  5k  
R_R21         $N_0032 $N_0046  5k  
R_R28         $N_0019 $N_0046  5k  
V_V16         $N_0047 0 15
R_R65         $N_0049 $N_0048  3k  
R_R70         $N_0050 $N_0047  10k  
R_R69         $N_0048 $N_0047  470  
Q_Q10         $N_0051 $N_0048 $N_0047 Q2N3505
M_M9         $N_0052 $N_0051 $N_0047 $N_0047 IRFF9110
R_R89         $N_0053 $N_0047  3k  
R_R66         $N_0055 $N_0054  3k  
Q_Q9         $N_0047 $N_0053 $N_0054 Q2N4014
R_R64         aa $N_0056  10k  
R_R71         $N_0057 $N_0051  100  
Q_Q7         0 $N_0053 $N_0049 Q2N3505
Q_Q6         $N_0053 $N_0050 0 Q2N4014
Q_Q5         $N_0050 $N_0056 0 Q2N4014
R_R68         0 $N_0056  1k  
Q_Q8         $N_0057 $N_0055 0 Q2N4014
R_R67         0 $N_0055  470  
M_M8         $N_0052 $N_0057 0 0 IRFF110
L_L8         $N_0052 $N_0058  10m  
V_V22         $N_0059 0 15
R_R99         $N_0061 $N_0060  3k  
R_R100         $N_0062 $N_0059  10k  
R_R101         $N_0060 $N_0059  470  
Q_Q17         $N_0063 $N_0060 $N_0059 Q2N3505
M_M24         $N_0058 $N_0063 $N_0059 $N_0059 IRFF9110
R_R102         $N_0064 $N_0059  3k  
R_R103         $N_0066 $N_0065  3k  
Q_Q18         $N_0059 $N_0064 $N_0065 Q2N4014
R_R104         bb $N_0067  10k  
R_R105         $N_0068 $N_0063  100  
Q_Q19         0 $N_0064 $N_0061 Q2N3505
Q_Q20         $N_0064 $N_0062 0 Q2N4014
Q_Q21         $N_0062 $N_0067 0 Q2N4014
R_R106         0 $N_0067  1k  
Q_Q22         $N_0068 $N_0066 0 Q2N4014
R_R107         0 $N_0066  470  
M_M25         $N_0058 $N_0068 0 0 IRFF110
L_L10         $N_0069 $N_0070  10m  
M_M12         $N_0071 $N_0069 $N_0070 $N_0070 IRFF110
R_R81         $N_0069 A1+  22  
D_D15         $N_0070 $N_0072 D1N4151 
D_D16         $N_0069 $N_0072 D1N4151 
R_R84         $N_0071 $N_0072  1k  
D_D13         cc $N_0069 Dbreak 
D_D14         cc $N_0070 Dbreak 
C_C9         cc $N_0072  22n  
M_M13         A1+ $N_0071 cc cc IRFF110
R_R83         cc A1+  1k  
L_L11         $N_0073 $N_0074  10m  
M_M18         $N_0075 $N_0073 $N_0074 $N_0074 IRFF110
R_R90         $N_0073 A2+  22  
D_D21         $N_0074 $N_0076 D1N4151 
D_D22         $N_0073 $N_0076 D1N4151 
R_R91         $N_0075 $N_0076  1k  
D_D23         0 $N_0073 Dbreak 
D_D24         0 $N_0074 Dbreak 
C_C11         0 $N_0076  22n  
M_M19         A2+ $N_0075 0 0 IRFF110
R_R92         0 A2+  1k  
L_L12         $N_0077 $N_0078  10m  
M_M20         $N_0079 $N_0077 $N_0078 $N_0078 IRFF110
R_R93         $N_0077 B1+  22  
D_D25         $N_0078 $N_0080 D1N4151 
D_D26         $N_0077 $N_0080 D1N4151 
R_R94         $N_0079 $N_0080  1k  
D_D27         dd $N_0077 Dbreak 
D_D28         dd $N_0078 Dbreak 
C_C12         dd $N_0080  22n  
M_M21         B1+ $N_0079 dd dd IRFF110
R_R95         dd B1+  1k  
L_L13         $N_0081 $N_0082  10m  
M_M22         $N_0083 $N_0081 $N_0082 $N_0082 IRFF110
R_R96         $N_0081 B2+  22  
D_D29         $N_0082 $N_0084 D1N4151 
D_D30         $N_0081 $N_0084 D1N4151 
R_R97         $N_0083 $N_0084  1k  
D_D31         0 $N_0081 Dbreak 
D_D32         0 $N_0082 Dbreak 
C_C13         0 $N_0084  22n  
M_M23         B2+ $N_0083 0 0 IRFF110
R_R98         0 B2+  1k  
L_L1         0 I_sence  5H  
R_R15         I_sence 0  33  
D_D1         cc $N_0085 Dbreak-X 
M_M2         cc $N_0086 0 0 IRF255
D_D2         0 cc Dbreak-X 
L_L2         V_sence 0  12mH  
L_L4         $N_0087 $N_0088  1mH  
L_L5         cc $N_0087  5uH  
C_C3         V_sence 0  10u  
M_M1         $N_0085 $N_0089 cc cc IRF255
R_R18         V_sence 0  10  
R_R13         $N_0089 A1+  10  
R_R14         $N_0086 B2+  10  
V_V2         $N_0085 0 27
M_M3         $N_0085 $N_0090 dd dd IRF255
M_M4         dd $N_0091 0 0 IRF255
D_D3         0 dd Dbreak-X 
D_D4         dd $N_0085 Dbreak-X 
R_R17         $N_0090 B1+  10  
R_R16         $N_0091 B2+  10  
L_L3         $N_0088 dd  50uH  
Kn_K6         L_L1 L_L5     1
Kn_K7         L_L4 L_L2     1
Kn_K8         L_L8 L_L10 
+ L_L11 L_L12 
+ L_L13  1
