* Schematics Netlist *



V_V2         -15 0 -15V
V_V1         +15 0 15V
R_R6         $N_0002 $N_0001  10k  
X_U5A         $N_0003 $N_0004 +15 -15 $N_0004 TL082
X_U6A         0 $N_0002 +15 -15 $N_0001 TL082
R_R7         $N_0002 $N_0004  10k  
D_D4         $N_0005 $N_0006 D1N4151 
D_D5         $N_0007 $N_0005 D1N4151 
X_U3A         $N_0004 $N_0005 +15 -15 $N_0006 TL082
X_U4A         $N_0001 $N_0005 +15 -15 $N_0007 TL082
R_R8         $N_0008 $N_0005  10k  
E_LIMIT1         $N_0009 0 VALUE {LIMIT(V($N_0008),-1,1)}
R_R9         0 $N_0009  10k  
V_V3         $N_0003 0 1
V_V4         $N_0008 0  
+SIN 0 10 400 0 0 0
