* Schematics Netlist *



C_C1         $N_0001 $N_0002  33n  
C_C2         $N_0002 $N_0003  33n  
R_R1         $N_0001 $N_0003  12.06k  
R_R2         0 $N_0002  12.06k  
R_R6         $N_0005 $N_0004  10k  
X_U3A         $N_0006 $N_0007 +15 -15 $N_0008 TL082
X_U6A         0 $N_0005 +15 -15 $N_0004 TL082
R_R7         $N_0005 $N_0006  10k  
D_D4         $N_0007 $N_0008 D1N4151 
D_D5         $N_0009 $N_0007 D1N4151 
R_R5         $N_0007 $N_0010  100k  
X_U4A         $N_0004 $N_0007 +15 -15 $N_0009 TL082
X_U7         $N_0011 0 $N_0011 TL431
X_U5A         $N_0011 $N_0006 +15 -15 $N_0006 TL082
R_R8         $N_0011 +15  15k  
R_R11         0 $N_0011  15k  
V_V2         -15 0 -15V
V_V1         +15 0 15V
X_U1A         $N_0010 $N_0001 +15 -15 $N_0003 TL082
R_R3         $N_0010 $N_0003  10k  
R_R4         0 $N_0010  22k  
