* Schematics Netlist *



X_U1A         $N_0001 $N_0002 +15 -15 $N_0003 TL082
V_V2         -15 0 -15V
V_V1         +15 0 15V
D_D1         $N_0004 0 Dbreak 
C_C1         $N_0002 $N_0005  33n  
C_C2         $N_0005 $N_0003  33n  
R_R3         $N_0001 $N_0003  10k  
D_D3         0 $N_0004 Dbreak 
R_R5         $N_0004 $N_0001  100k  
R_R4         0 $N_0001  20k  
R_R1         $N_0002 $N_0003  12.06k  
R_R2         0 $N_0005  12.06k  
